US09193728B2
Preparation of 8-methyl-1,2,7,8,9,10-hexahydropyrido[4,3-b][1,4]thiazino[2,3,4-hi]indole (Compound No. 11)
4-Nitroso-3,4-dihydro-2H-benzo[1,4]thiazine (1 g, 5.55 mmol) was dissolved in acetic acid (25 mL) and N-Me- piperidone (753 mg, 6.66 mmol) and zinc dust (1.8 g, 27.77 mmol) was added portionwise at RT. The reaction mixture was heated at 95° C. for 2 h. After completion of reaction, the mixture was basified with NaHCO3 and extracted with EtOAc, dried over sodium sulfate and concentrated under vacuum to obtain product. 1H NMR (CD3OD, Formate Salt): d (ppm): 7.20 (d, 1H), 6.98 (t, 1H), 6.90 (d, 1H), 4.32 (t, 2H), 4.28 (s, 2H), 3.50 (t, 2H), 3.30 (m, 2H), 3.10 (t, 2H), 2.98 (s, 3H).

reactant | 4-Nitroso-3,4-dihydro-2H-benzo[1,4]thiazine | 5.55 mmol, 1 g | N(=O)N1CCSC2=C1C=CC=C2 | C8H8N2OS
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | acetic acid | 25 mL | C(C)(=O)O | C2H4O2
catalyst | zinc | 27.77 mmol, 1.8 g | [Zn] | Zn
product | 8-methyl-1,2,7,8,9,10-hexahydropyrido[4,3-b][1,4]thiazino[2,3,4-hi]indole | CN1CC2=C(N3C4=C(C=CC=C24)SCC3)CC1 | C14H16N2S
